US06713474B2
A mixture of trans-5-iodo-7-[4-(4-methylpiperazino)cyclohexyl]-7H-pyrrolo[2,3-d]pyrimidin-4-amine hydrochloride (750 mg, 1.63 mmol), 2-phenoxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzaldehyde (635 mg, 1.96 mmol), sodium carbonate monohydrate (490 mg, 3.92 mmol) and tetrakis(triphenylphosphine)palladium(0) (115 mg, 0.1 mmol) in ethylene glycol dimethyl ether (40 mL) and water (20 mL) was heated at 85° C. for 18 hours. The mixture was cooled, concentrated under reduced pressure then purified by preparative RP-HPLC then lyophilized to give trans-5-{4-amino-7-[4-(4-methylpiperazino)cyclohexyl]-7H-pyrrolo[2,3-d]pyrimidin-5-yl}-2-phenoxybenzaldehyde bisacetate (636 mg, 68%). A portion of this compound (75 mg, 0.132 mmol) was dissolved in ethanol (2 mL) and the treated with maleic acid (61 mg, 0.526 mmol) in ethanol (1 mL). The precipitate was collected by filtration and dried under reduced pressure: 1H NMR (DMSO-d6, 400 MHz) δ 10.41(s, 1H), 8.22(s, 1H), 7.88(s, 1H), 7.72(d, 1H), 7.60(s, 1H), 7.47(t, 2H), 7.24(m, 3H), 7.08(d, 1H), 6.62 (bs, 2H), 6.16(s, 6H), 4.61(m, 1H), 2.5-3.4(m, 9H), 2.69(s, 3H), 1.8-2.1 (m, 6H), 1.56 (m, 2H); MS MH+511.4; RP-HPLC (Hypersil HS, 5 μm, 100 A 4.6×250 mm; 5%-100% acetonitrile—0.05 M ammonium acetate over 25 min, 1 ml/min) tr 14.55 min.

reactant | trans-5-iodo-7-[4-(4-methylpiperazino)cyclohexyl]-7H-pyrrolo[2,3-d]pyrimidin-4-amine hydrochloride | 1.63 mmol, 750 mg | Cl.IC1=CN(C=2N=CN=C(C21)N)[C@@H]2CC[C@H](CC2)N2CCN(CC2)C
reactant | 2-phenoxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzaldehyde | 1.96 mmol, 635 mg | O(C1=CC=CC=C1)C1=C(C=O)C=C(C=C1)B1OC(C(O1)(C)C)(C)C | C19H21BO4
reactant | sodium carbonate monohydrate | 3.92 mmol, 490 mg | O.C([O-])([O-])=O.[Na+].[Na+]
solvent | ethylene glycol dimethyl ether | 40 mL | COCCOC | C4H10O2
solvent | water | 20 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.1 mmol, 115 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | trans-5-{4-amino-7-[4-(4-methylpiperazino)cyclohexyl]-7H-pyrrolo[2,3-d]pyrimidin-5-yl}-2-phenoxybenzaldehyde bisacetate | 636 mg, 68% | C(C)(=O)O.C(C)(=O)O.NC=1C2=C(N=CN1)N(C=C2C=2C=CC(=C(C=O)C2)OC2=CC=CC=C2)[C@@H]2CC[C@H](CC2)N2CCN(CC2)C | InChI=1S/C30H34N6O2.2C2H4O2/c1-34-13-15-35(16-14-34)23-8-10-24(11-9-23)36-18-26(28-29(31)32-20-33-30(28)36)21-7-12-27(22(17-21)19-37)38-25-5-3-2-4-6-25;2*1-2(3)4/h2-7,12,17-20,23-24H,8-11,13-16H2,1H3,(H2,31,32,33);2*1H3,(H,3,4)/t23-,24-;;
